US04264723
Production of 1-(2,4,6-trichlorophenyl)-3-(2-chloro-5-tetradecanamidoanilino)-4-benzylthio-5-oxo-2-pyrazoline (Compound (1))
1-(2,4,6-trichlorophenyl)-3-(2-chloro-5-tetradecanamidoanilino)-5-oxo-2-pyrazoline (21.4 g) was dissolved in 80% ethanol (ratio by volume of water:20%), and 2.42 g of anhydrous potassium carbonate was added thereto. The solution was refluxed with heating. 8.2 g of S-benzylthioisothiourea hydrochloride was added to the solution and the solution was vigorously stirred for 3 hours. After confirming the conclusion of the reaction by thin film chromatography, the reaction container was cooled with water. The formed crystals were separated by filtration and dissolved in 100 ml of hot ethanol. Insoluble materials were separated by filtration, and the filtrate was cooled. The resulting colorless crystals were Compound (1). The melting point was 182° to 185° C. and the yield was 12 g.

reactant | 1-(2,4,6-trichlorophenyl)-3-(2-chloro-5-tetradecanamidoanilino)-5-oxo-2-pyrazoline | 21.4 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(CC1=O)NC1=C(C=CC(=C1)NC(CCCCCCCCCCCCC)=O)Cl | C29H36Cl4N4O2
reactant | potassium carbonate | 2.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | S-benzylthioisothiourea hydrochloride | 8.2 g | Cl.C(C1=CC=CC=C1)SSC(N)=N
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-(2,4,6-trichlorophenyl)-3-(2-chloro-5-tetradecanamidoanilino)-4-benzylthio-5-oxo-2-pyrazoline | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)SCC1=CC=CC=C1)NC1=C(C=CC(=C1)NC(CCCCCCCCCCCCC)=O)Cl | C36H42Cl4N4O2S
